US20010041709A1
To a solution of 1,3-dichloro-5-ethynyl-benzene (1.52 g, 8.9 mmol) in triethylamine (32.4 mL) was added PdCl2(PPh3)2 (57.15 mg, 0.08 mmol), (E)-3-iodo-prop-2-enoic-acid ethyl ester (1.84 g, 8.1 mmol) and copper(l)iodide (7.7 mg, 0.04 mmol). The reaction mixture was stirred for 2 h at 50° C., whereafter the reaction mixture was cooled to room temperature, water (30 mL) added and the mixture extracted with diethyl ether (3×20 mL). The combined and dried organic phases were evaporated to give crude (E)-5-(3,5-dichloro-phenyl)-pent-2-en-4-ynoic acid ethyl ester in 1.1 g yield.

reactant | 1,3-dichloro-5-ethynyl-benzene | 8.9 mmol, 1.52 g | ClC1=CC(=CC(=C1)C#C)Cl | C8H4Cl2
reactant | (E)-3-iodo-prop-2-enoic-acid ethyl ester | 8.1 mmol, 1.84 g | C(C)OC(\C=C\I)=O | C5H7IO2
reactant | water | 30 mL | O | H2O
solvent | triethylamine | 32.4 mL | C(C)N(CC)CC | C6H15N
catalyst | PdCl2(PPh3)2 | 0.08 mmol, 57.15 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (E)-5-(3,5-dichloro-phenyl)-pent-2-en-4-ynoic acid ethyl ester | C(C)OC(\C=C\C#CC1=CC(=CC(=C1)Cl)Cl)=O | C13H10Cl2O2
